US06384080B1
To a solution of 2-fluoro-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide (150 mg) in anhydrous pyridine (3 mL) was added trans-4-aminocyclohexanol (81.4 mg), and the mixture was stirred for 15 hours at ambient temperature, and then for 3 hours at 60° C. The mixture was partitioned between ethyl acetate and water. The separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was subjected to a silica gel column chromatography eluting with a mixture of chloroform and methanol (20:1). The eluent was concentrated and the residue was triturated with diisopropyl ether to give 2-(trans-4-hydroxycyclohexylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide as yellow powders (164 mg).

reactant | 2-fluoro-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 150 mg | FC1=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C=C(C=C1)[N+](=O)[O-] | C15H11FN2O5
reactant | trans-4-aminocyclohexanol | 81.4 mg | N[C@@H]1CC[C@H](CC1)O | C6H13NO
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 2-(trans-4-hydroxycyclohexylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 164 mg | O[C@@H]1CC[C@H](CC1)NC1=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C=C(C=C1)[N+](=O)[O-] | C21H23N3O6
